US05319100
(3) 1-(N-Dimethylaminocarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-26)
Substantially in the same manner as in Example 39 (3), 8.31 g of the thus obtained {1-(N-dimethylaminocarbamoyl)-2-oxopyrrolidin-3-yl}phosphonium bromide, 3.79 g (16.2 mmol) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 4.51 ml (32.4 mmol) of triethylamine were treated to give 2.91 g of the objective compound (Ia-26) in 46.4% yield.

reactant | {1-(N-dimethylaminocarbamoyl)-2-oxopyrrolidin-3-yl}phosphonium bromide | [Br-].CN(NC(=O)N1C(C(CC1)[PH3+])=O)C
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 16.2 mmol, 3.79 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | triethylamine | 32.4 mmol, 4.51 ml | C(C)N(CC)CC | C6H15N
product | 1-(N-Dimethylaminocarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 2.91 g, 46.4% yield | CN(NC(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C | C22H33N3O3
